US08106043B2
N-(4-(2-(Methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide dihydrochloride:
N-(4-(2-(methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide (0.4353 g, 1.376 mmol) was dissolved in MeOH (3 mL). 1M HCl in ether (6.88 mL, 6.88 mmol) was added to the solution at room temperature, and the reaction was stirred for 5 minutes under argon atmosphere. The mixture was concentrated to give a yellow solid (0.59 g, quantitative). 1H NMR (DMSO-d6) δ 11.31 (s, 1H), 9.58 (s, 1H), 9.30 (brs, 2H), 8.82 (s, 1H), 8.57 (s, 1H), 7.98 (s, 1H), 7.30 (d, J=1.2 Hz, 1H), 7.06-7.03 (m, 2H), 6.97 (dd, J=2.4, 8.7 Hz, 1H), 3.74-3.63 (m, 4H), 3.13-3.05 (m, 4H), 2.58-2.55 (m, 3H); ESI-MS (m/z, %): 319, 317 (MH+, free base, 100), 260 (98); HRMS calculated for C16H20N4OS (MH+, free base), calculated: 317.1430, observed: 317.1417; HPLC purity: 99% by area.

reactant | N-(4-(2-(methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide | 1.376 mmol, 0.4353 g | CNCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2OC=CC2 | C16H20N4OS
reactant | HCl | 1M | Cl | ClH
reactant | ether | 6.88 mmol, 6.88 mL | CCOCC | C4H10O
solvent | MeOH | 3 mL | CO | CH4O
product | N-(4-(2-(Methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide dihydrochloride | Cl.Cl.CNCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2OC=CC2 | InChI=1S/C16H20N4OS.2ClH/c1-18-6-7-20-8-10-22-15-11-12(4-5-13(15)20)19-16(17)14-3-2-9-21-14;;/h2-5,9,11,18H,6-8,10H2,1H3,(H2,17,19);2*1H
